*** Test banch for subckt ***
simulator lang=spectre
ahdl_include "res_va.va"
global gnd 

x11 nv_2 gnd res_va vc1=1

r_res1_1 nv_1 nv_2 resistor r=10
v_vpul1_2 nv_1 gnd vsource type=pulse val0=0 val1=3 period=5e-008 rise=1e-009 fall=1e-009 width=1e-008 

timesweep tran start=0.000000e+000 stop=2.000000e-008 maxstep=1.000000e-009 oppoint=logfile 

saveoptions options save=all currents=all rawfmt=apb

default_options options tnom=2.700000e+001 temp=2.700000e+001  
